US08871798B2
4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-2-methyl-3a,4,6,9,9a,9b-hexahydropyrrolo[3,4-a]indolizine-1,3-dione (3 racemic mixtures)
The title compound is prepared analogously from 100 mg of (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal, 49 mg of N-methylmaleimide and 58 mg of 1,2,3,6-tetrahydropyridine-2-carboxylic acid hydrochloride. The crude product is purified by column chromatography (silica gel, MeOH:DCM=2:98). In this manner, 3 pure fractions are isolated as racemic mixtures.

reactant | (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal | 100 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C=O | C14H10FNO
reactant | N-methylmaleimide | 49 mg | CN1C(C=CC1=O)=O | C5H5NO2
reactant | 1,2,3,6-tetrahydropyridine-2-carboxylic acid hydrochloride | 58 mg | Cl.N1C(CC=CC1)C(=O)O
product | 4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-2-methyl-3a,4,6,9,9a,9b-hexahydropyrrolo[3,4-a]indolizine-1,3-dione | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2C(C3CC=CCN13)C(N(C2=O)C)=O | C24H22FN3O2
